US09079866B2
5-(2′-{[4-(Cyclopropylcarbonyl)piperazin-1-yl]sulfonyl}-3-fluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and (4-((2-bromophenyl)sulfonyl)piperazin-1-yl)(cyclopropyl)-methanone. MS (ESI): mass calcd. for C24H24FN5O3S, 481.16; m/z found, 482.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.63-8.59 (m, 1H), 8.16-8.10 (m, 2H), 8.00 (m, 1H), 7.67-7.62 (m, 1H), 7.58-7.53 (m, 1H), 7.39-7.36 (m, 1H), 7.32-7.30 (m, 1H), 7.28 (s, 1H), 4.76 (s, 2H), 3.48 (s, 4H), 2.94-2.82 (m, 4H), 1.63-1.54 (m, 1H), 0.97-0.89 (m, 2H), 0.79-0.70 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | (4-((2-bromophenyl)sulfonyl)piperazin-1-yl)(cyclopropyl)-methanone | BrC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1CC1 | C14H17BrN2O3S
product | 5-(2′-{[4-(Cyclopropylcarbonyl)piperazin-1-yl]sulfonyl}-3-fluorobiphenyl-4-yl)pyrazin-2-amine | C1(CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C24H24FN5O3S
